US03973900
1,4-Di-(Beta-Hydroxyethylamino)-2-Nitro-5-Chlorobenzene
79.0 g (0.33 mole) of 1-beta-hydroxyethylamino-2-nitro-4-amino-5-chlorobenzene were dissolved in 150 ml methylglycol and 36 g (0.5 mole) ethylenechlorohydrin. 19.8 g of NaOH dissolved in 180 ml water were then added while stirring over a period of 3 hours at a bath temperature of 130°C. The final product was removed by suction after cooling and was recrystallized from water. Yield: 35 g 1,4-di-(beta-hydroxyethylamino)-2-nitro-5-chlorobenzene; m.p.: 127°-128°C. Analysis: C10H14N3O4Cl

reactant | 1-beta-hydroxyethylamino-2-nitro-4-amino-5-chlorobenzene | 0.33 mole, 79.0 g | OCCNC1=C(C=C(C(=C1)Cl)N)[N+](=O)[O-] | C8H10ClN3O3
reactant | ethylenechlorohydrin | 0.5 mole, 36 g | C(CO)Cl | C2H5ClO
reactant | NaOH | 19.8 g | [OH-].[Na+]
solvent | water | 180 ml | O | H2O
product | 1,4-Di-(Beta-Hydroxyethylamino)-2-Nitro-5-Chlorobenzene | OCCNC1=C(C=C(C(=C1)Cl)NCCO)[N+](=O)[O-] | C10H14ClN3O4
